US04731367
Under argon, 320 mg (8 mmol) of lithium aluminum hydride is suspended in 20 ml of absolute, freshly distilled tetrahydrofuran. At room temperature, a solution of 1.40 g (4 mmol) of 1,1-diethyl-3-(6-methyl-2-formyl-8α-ergolinyl)urea in 40 ml of freshly distilled, absolute tetrahydrofuran is added dropwise. Then the mixture is stirred for 11/4 hours at room temperature. The batch is then cooled in an ice bath and combined with 20 ml of 1N hydrochloric acid. To this mixture is added 20 ml of 2N tartaric acid and the batch is layered over the ethyl acetate. For neutralization, 80 ml of 1N ammonia solution is added dropwise. The ethyl acetate phase is separated, and the aqueous phase is reextracted with ethyl acetate. The combined ethyl acetate phases are dried over sodium sulfate. The concentrated crude product is chromatographed on silica gel with methylene chloride/methanol 95:5 under pressure. The crude product (1.09 g) is crystallized from ethyl acetate, thus obtaining 0.94 g of 1,1-diethyl-3-(6-methyl-2-hydroxymethyl-8α-ergolinyl)urea (65% yield).

reactant | lithium aluminum hydride | 8 mmol, 320 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,1-diethyl-3-(6-methyl-2-formyl-8α-ergolinyl)urea | 4 mmol, 1.40 g | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C=O)C)CC | C21H28N4O2
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
reactant | tartaric acid | 2N, 20 ml | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | ammonia | 1N, 80 ml | N | H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,1-diethyl-3-(6-methyl-2-hydroxymethyl-8α-ergolinyl)urea | 0.94 g, 65% yield | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)CO)C)CC | C21H30N4O2
